US04427590
To a solution of 3,0 g 1-[(p-methoxybenzyloxy)-methyl]-6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine in 30 ml of glacial acetic acid is added at 25° 24 ml 48% aqueous hydrobromic acid. The reaction mixture is stirred for 20 minutes, neutralised with 30% sodium hydroxide solution and extracted with methylenechloride. The organic phase is separated, washed with water, dried over sodium sulphate and evaporated to dryness. The crystallisation of the residue from acetate-ether-petrol ether yields 6-phenyl-8-chloro-4-H-s-triazolo[4,3-a][1,4]benzodiazepine-1-methanol, M.P. 209°-211°.

reactant | 1-[(p-methoxybenzyloxy)-methyl]-6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine | 3,0 g | COC1=CC=C(COCC2=NN=C3N2C2=C(C(=NC3)C3=CC=CC=C3)C=C(C=C2)Cl)C=C1 | C25H21ClN4O2
reactant | hydrobromic acid | 24 ml | Br | BrH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 6-phenyl-8-chloro-4-H-s-triazolo[4,3-a][1,4]benzodiazepine-1-methanol | C1(=CC=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)Cl)C(=NN2)CO | C17H13ClN4O
